US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2-furoyl chloride, there is obtained ethyl N-(2-furoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6carboximidate, m.p. 87°-92° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | ethyl N-(2-furoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6carboximidate | O1C(=CC=C1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C22H20N2O3
